US06200978B1
(8aR)perhydropyrrolo[1,2-α]pyrazine-1,4-dione
Pyridine (2.5 ml ), and thionyl chloride (22.5 ml) were added to a solution of N-phthaloylglycine (57.5 g) in dichloromethane and the reaction stirred under reflux for 18 hours. The mixture was allowed to cool to room temperature, (R)-proline (30.5 g) added and the reaction again stirred under reflux for 18 hours. On cooling, water was added and the resulting precipitate filtered, washed with further water and dried. This material was suspended in ethanol (330 ml) and dichloromethane (250 ml), and hydrazine hydrate (26.5 ml) added. The reaction mixture was stirred at room temperature for 18 hours, filtered and the filtrate evaporated to dryness in vacuo. This material was crystallised from ethanol, to afford the title compound, 26.05 g.

reactant | Pyridine | 2.5 ml | N1=CC=CC=C1 | C5H5N
reactant | thionyl chloride | 22.5 ml | S(=O)(Cl)Cl | Cl2OS
reactant | N-phthaloylglycine | 57.5 g | C1=CC=C2C(=C1)C(=O)N(C2=O)CC(=O)O | C10H7NO4
reactant | (R)-proline | 30.5 g | N1[C@@H](C(=O)O)CCC1 | C5H9NO2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | O | H2O
product | (8aR)perhydropyrrolo[1,2-α]pyrazine-1,4-dione | C1([C@@H]2N(C(CN1)=O)CCC2)=O | C7H10N2O2
